US09447084B2
Phenyl N-(3-chloropropyl)-N-(2,2,2-trifluoroethyl)carbamate
Into a 500-mL round-bottom flask, was placed (3-chloropropyl)(2,2,2-trifluoroethyl)amine (5 g, 28.48 mmol, 1.00 equiv), dichloromethane (300 mL), TEA (5.8 g, 57.32 mmol, 2.00 equiv), pyridine (0.5 mL). To this was added dropwise phenyl chloroformate (4.4 g, 28.10 mmol, 1.00 equiv) at 0° C. The resulting solution was stirred for 3 h at room temperature. The resulting mixture was washed with 2×100 mL of H2O. The resulting mixture was washed with 2×100 mL of brine. The mixture was dried over sodium sulfate. The resulting mixture was concentrated under vacuum. This resulted in 1.4 g (crude) of phenyl N-(3-chloropropyl)-N-(2,2,2-trifluoroethyl)carbamate as a colorless liquide.

reactant | (3-chloropropyl)(2,2,2-trifluoroethyl)amine | 28.48 mmol, 5 g, 1.00 equiv | ClCCCNCC(F)(F)F | C5H9ClF3N
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | phenyl chloroformate | 28.10 mmol, 4.4 g, 1.00 equiv | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | Phenyl N-(3-chloropropyl)-N-(2,2,2-trifluoroethyl)carbamate | ClCCCN(C(OC1=CC=CC=C1)=O)CC(F)(F)F | C12H13ClF3NO2
